US07598286B2
Step A: (3-methoxyphenyl)[1-propyl-7-(trifluoromethyl)-1H-indazol-3-yl]methanone
To a solution of [3-(methoxy)phenyl](7-trifluoromethyl-1H-indazol-3-yl)methanone (0.27 g, 0.85 mmol) in 5 mL DMF was added in one portion sodium hydride (0.034 g, 0.85 mmol, 60% in oil). After the gas evolution ceased, 1-iodopropane (0.097 mL, 1.0 mmol) was added and the reaction was stirred at ambient to 50° C. for 24 hours. The cool reaction mixture was partitioned with EtOAc and 1 N HCl. The organic phase was washed with brine and dried (Na2SO4). Removal of the solvent in vacuo afforded the crude product which was purified by flash chromatography (silica gel, hexane/EtOAC, 9:1) to give the title compound (0.262 g) as an oil. MS (ESI) m/z 363 ([M+H]+);

reactant | [3-(methoxy)phenyl](7-trifluoromethyl-1H-indazol-3-yl)methanone | 0.85 mmol, 0.27 g | COC=1C=C(C=CC1)C(=O)C1=NNC2=C(C=CC=C12)C(F)(F)F | C16H11F3N2O2
reactant | sodium hydride | 0.85 mmol, 0.034 g | [H-].[Na+]
reactant | 1-iodopropane | 1.0 mmol, 0.097 mL | ICCC | C3H7I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (3-methoxyphenyl)[1-propyl-7-(trifluoromethyl)-1H-indazol-3-yl]methanone | 0.262 g | COC=1C=C(C=CC1)C(=O)C1=NN(C2=C(C=CC=C12)C(F)(F)F)CCC | C19H17F3N2O2
